US07700628B2
A. Methyl 2-(3-tert-butoxycarbonylamino-2,2-dimethylpropoxy)-4-(tert-butyl)-benzoate
Using methods substantially equivalent to Example 21-C, except that the Mitsonobu reaction was allowed to proceed for 7 to 10 days, methyl 2-(3-tert-butoxy-carbonylamino-2,2-dimethylpropoxy)-4-(tert-butyl)benzoate (10.85 g, 39%) as a pale yellow brittle foam was prepared from methyl 4-(tert-butyl)salicylate (14.72 g, 70.8 mmol) and 3-(tert-butoxycarbonylamino)-2,2-dimethylpropanol (14.37 g, 70.8 mmol).

reactant | methyl 2-(3-tert-butoxy-carbonylamino-2,2-dimethylpropoxy)-4-(tert-butyl)benzoate | 10.85 g | C(C)(C)(C)OCC(C(OC1=C(C(=O)OC)C=CC(=C1)C(C)(C)C)N=C=O)(C)C | C22H33NO5
reactant | methyl 4-(tert-butyl)salicylate | 70.8 mmol, 14.72 g | C(C)(C)(C)C=1C=C(C(C(=O)OC)=CC1)O | C12H16O3
reactant | 3-(tert-butoxycarbonylamino)-2,2-dimethylpropanol | 70.8 mmol, 14.37 g | C(C)(C)(C)OC(=O)NCC(CO)(C)C | C10H21NO3
product | Methyl 2-(3-tert-butoxycarbonylamino-2,2-dimethylpropoxy)-4-(tert-butyl)-benzoate | C(C)(C)(C)OC(=O)NCC(COC1=C(C(=O)OC)C=CC(=C1)C(C)(C)C)(C)C | C22H35NO5
